US03998834
70 Parts of 4-[(4-fluorophenyl)amino]-1-(phenylmethyl)-4-piperidinecarboxylic acid are dissolved in 450 parts of dry hexamethylphosphoric triamide at 120° C. This solution is cooled to room temperature and 6 parts of sodium hydride dispersion 78% are added portionwise at a temperature below 30° C. After stirring for 1.50 hours at room temperature, there are added dropwise 32.5 parts of iodomethane at a temperature below 15° C. Upon completion, stirring is continued for 28 hours at room temperature. The reaction mixture is poured onto 800 parts of water and the product is extracted with methylbenzene. The extract is washed successively with water, a 10% sodium hydroxide solution and again twice with water, dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The oily residue is converted into the ethanedioate salt in 2-propanol. The salt is filtered off and crystallized from 2-propanol, yielding methyl 4-[(4-fluorophenyl)amino]-1-(phenylmethyl)-4-piperidinecarboxylate ethanedioate; mp. 168.6° C.

reactant | 4-[(4-fluorophenyl)amino]-1-(phenylmethyl)-4-piperidinecarboxylic acid | FC1=CC=C(C=C1)NC1(CCN(CC1)CC1=CC=CC=C1)C(=O)O | C19H21FN2O2
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | IC | CH3I
reactant | water | O | H2O
reactant | hexamethylphosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | methyl 4-[(4-fluorophenyl)amino]-1-(phenylmethyl)-4-piperidinecarboxylate ethanedioate | C(C(=O)O)(=O)O.FC1=CC=C(C=C1)NC1(CCN(CC1)CC1=CC=CC=C1)C(=O)OC | InChI=1S/C20H23FN2O2.C2H2O4/c1-25-19(24)20(22-18-9-7-17(21)8-10-18)11-13-23(14-12-20)15-16-5-3-2-4-6-16;3-1(4)2(5)6/h2-10,22H,11-15H2,1H3;(H,3,4)(H,5,6)
